US06984640B1
To absolution of dihydroartemisinin (500 mg, 1.86 mmol) in dichloromethane (28 ml) at 0° C. under nitrogen was added 4-(N,N-dimethylamino)pyridine (37 mg) and trifluoroacetic anhydride (0.79 ml, 5.58 mmol). The mixture was allowed to warm to room temperature and stirred overnight. The solution was then concentrated in vacuo. The residue was purified by flash chromatography (SiO2; ether:hexane from 0.5:9.5 to 1.5:8.5) to give 9,10-anhydro-10-deoxoartemisinin (9,10-anhydroartemisinin) (180 mg, 25%) as a white solid. M.p. 100° C.; [α]D20.5 +155.74° (c. 0.0101 in CHCl3); νmax (film): 2948, 2922, 2862, 2850, 1684, 1432, 1372, 1334, 1198, 1178, 1158, 1142, 1114, 1078, 1028, 1016, 992, 954, 944, 904, 880, 828, 812; δH, 6.18 (1H, s, H-10), 5.54 (1H, s, H-12), 2.40 (1H, ddd, J=17.1, 13.2, 4.14 Hz, H-9), 2.00-2.05 (2H, m), 1.88-1.95 (1H, m), 1.07-1.73 (8H, m), 1.58 (3H, d, J=1.37 Hz, H-16), 1.42 (3H, s, H-14), 0.98 (3H, d, J=5.98 Hz, H-1 S); m/z (EI) 380 (M+); Anal. Calc. for C15H22O4: C, 67.67; H, 8.27; Found: C, 67.63; H, 8.51.

reactant | dihydroartemisinin | 1.86 mmol, 500 mg | C[C@@H]1CC[C@H]2[C@H]([C@H](O[C@H]3[C@@]24[C@H]1CCC(O3)(OO4)C)O)C | C15H24O5
reactant | trifluoroacetic anhydride | 5.58 mmol, 0.79 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 28 ml | ClCCl | CH2Cl2
catalyst | 4-(N,N-dimethylamino)pyridine | 37 mg | CN(C)C1=CC=NC=C1 | C7H10N2
product | 9,10-anhydro-10-deoxoartemisinin | 180 mg, 25% | C[C@@H]1CC[C@H]2C(=CO[C@H]3[C@@]24[C@H]1CC[C@](O3)(OO4)C)C | C15H22O4
